US07960584B2
N-{4-[3-(4-t-Butyl-benzyl)-ureidomethyl]-2-iodo-phenyl}-methanesulfonamide
N-(4-Aminomethyl-2-iodo-phenyl)-methanesulfonamide and HCl salt (297 mg, 0.820 mmol) were reacted with (4-t-butyl-benzyl)-carbamic acid phenyl ester following the general procedure to give a white solid (152 mg).

reactant | N-(4-Aminomethyl-2-iodo-phenyl)-methanesulfonamide | NCC1=CC(=C(C=C1)NS(=O)(=O)C)I | C8H11IN2O2S
reactant | HCl | 0.820 mmol, 297 mg | Cl | ClH
reactant | (4-t-butyl-benzyl)-carbamic acid phenyl ester | C1(=CC=CC=C1)OC(NCC1=CC=C(C=C1)C(C)(C)C)=O | C18H21NO2
product | N-{4-[3-(4-t-Butyl-benzyl)-ureidomethyl]-2-iodo-phenyl}-methanesulfonamide | 152 mg | C(C)(C)(C)C1=CC=C(CNC(NCC2=CC(=C(C=C2)NS(=O)(=O)C)I)=O)C=C1 | C20H26IN3O3S
